US07189877B2
Synthesis of 9,9-bis(4′-chloro-biphenyl-4-yl)fluorene
16 g of 9,9-bis[4-(trifluoromethylsulfonyl)phenyl]fluorene, 100 ml of tetrahydrofuran, 62 g of a 20% sodium carbonate aqueous solution, 8.54 g of 4-chlorophenylboronic acid, and 0.6 g of tetrakis(triphenylphosphine)palladium were placed in a 300 ml four-necked flask, and the mixture was heated at 70° C. The resulting mixture was aged at the same temperature for 18 hours, and the reaction mixture was then cooled to room temperature and subjected to liquid separation. An organic phase was washed with a saturated ammonium chloride aqueous solution and saturated salt water, and the resulting organic phase was concentrated and recrystallized from tetrahydrofuran to obtain 11.4 g of a white powder.

reactant | 9,9-bis[4-(trifluoromethylsulfonyl)phenyl]fluorene | 16 g | FC(S(=O)(=O)C1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)(F)F | C27H16F6O4S2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chlorophenylboronic acid | 8.54 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 9,9-bis(4′-chloro-biphenyl-4-yl)fluorene | 11.4 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C37H24Cl2
